US07994185B2
N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide (200 mg, 0.360 mmol) and dimethyl zinc in toluene (0.360 mL, 0.720 mmol), the title compound was obtained as a yellow solid (161 mg, 84% yield). MS (ESI): 535.0 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | 0.360 mmol, 200 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C23H18Cl2F2N4O2S2
reactant | dimethyl zinc | C[Zn]C
reactant | toluene | 0.720 mmol, 0.360 mL | C1(=CC=CC=C1)C | C7H8
product | N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,5-difluorobenzenesulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)C(C)(C)C)NS(=O)(=O)C1=C(C=CC(=C1)F)F | C24H21ClF2N4O2S2
